US06500863B1
N-[(1-tert-butoxycarbonylpiperidin4-yl)methyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide
Following the general hydrolysis procedure outlined in example 15, N-[(1-tert-butoxycarbonylpiperidin-4-yl)methyl]-2,6dichloro-3-nitrobenzenesulfonamide (800 mg, 1.89 mmol), 60% NaH (227 mg, 5.67 mmol) and water (41 μL, 2.27 mmol) were reacted to form the desired product (495 mg, 58%). EI-MS (m/z) 447.92, 449.84 (M−).

reactant | N-[(1-tert-butoxycarbonylpiperidin-4-yl)methyl]-2,6dichloro-3-nitrobenzenesulfonamide | 1.89 mmol, 800 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])Cl | C17H23Cl2N3O6S
reactant | NaH | 5.67 mmol, 227 mg | [H-].[Na+]
reactant | water | 2.27 mmol, 41 μL | O | H2O
product | N-[(1-tert-butoxycarbonylpiperidin4-yl)methyl]-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 495 mg, 58% | C(C)(C)(C)OC(=O)N1CCC(CC1)CNS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C17H24ClN3O7S
